US09284308B2
tert-Butyl 4-(6-(trifluoromethyl)nicotinoyl)piperidine-1-carboxylate
Dess-Martin periodinane reagent (30.0 g, 70.8 mmol) was added to a solution of tert-butyl 4-(hydroxy(6-(trifluoromethyl)pyridin-3-yl)methyl)piperidine-1-carboxylate (Intermediate 56: step a, 17.8 g, 49.5 mmol) in DCM (354 mL) at room temperature and the mixture was stirred for 2 hours. The reaction mixture was diluted with DCM and washed with saturated aqueous solution of NaHCO3. The organic phase was dried (MgSO4), filtered, and concentrated to dryness. The crude product was purified by flash column chromatography (silica gel, 0-60% EtOAc-hexanes) to provide the title compound that was 90% pure by NMR and was carried on to the next step.

reactant | Dess-Martin periodinane | 70.8 mmol, 30.0 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl 4-(hydroxy(6-(trifluoromethyl)pyridin-3-yl)methyl)piperidine-1-carboxylate | OC(C1CCN(CC1)C(=O)OC(C)(C)C)C=1C=NC(=CC1)C(F)(F)F | C17H23F3N2O3
solvent | DCM | 354 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-(6-(trifluoromethyl)nicotinoyl)piperidine-1-carboxylate | FC(C1=NC=C(C(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1)(F)F | C17H21F3N2O3
